US07365196B2
1-Tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-ylidene-pyrrolidinium bromide (225 mg, 0.70 mmol) was dissolved in water (5 mL) and 2 M aqueous HCl (5 mL) was added. The mixture was heated at reflux for 16 h, cooled and extracted into DCM. The organic extracts were concentrated to give tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-one (130 mg) as a white crystalline solid. 1H NMR (CDCl3, 360 MHz) δ 7.19 (4 H, s, aromatic), 2.99-2.86 (4 H, m, benzylic), 2.61-2.57 (2 H, m, bridgehead H), 1.90-1.80 (2 H, m), 1.33-1.26 (2 H, m).

reactant | 1-Tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-ylidene-pyrrolidinium bromide | 0.70 mmol, 225 mg | [Br-].C12CC=3C=CC=CC3CC(CC1)C2=[N+]2CCCC2
reactant | HCl | 2 M, 5 mL | Cl | ClH
reactant | water | 5 mL | O | H2O
product | tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-one | 130 mg | C12CC=3C=CC=CC3CC(CC1)C2=O | C13H14O
